US03985881
A mixture of 2.0 g. of 1-(3,4-dimethoxyphenyl)-2-chloroethane and 2.5 g of 3,4,5-trimethoxybenzamidoacetonitrile (obtainable from aminoacetonitrile and 3,4,5-trimethoxybenzoyl chloride) is allowed to stand overnight at 20° in 100 ml. of o-dichlorobenzene and with 2.6 g. of tin tetrachloride; the mixture is thereafter heated for 3 hours to 110°. The solution is concentrated by evaporation, and the residue is shaken with chloroform and sodium hydroxide solution. The chloroform solution is evaporated, and the thus-obtained crude 1-(3,4,5-trimethoxybenzamidomethyl)-6,7-dimethoxy-3,4-dihydroisoquinoline is dissolved in 30 ml. of methanol and hydrogenated with 200 mg. of PtO2 at 20° and under normal pressure. After filtration, evaporation, and purification by chromatography on silica gel, 1-(3,4,5-trimethoxybenzamidomethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline is obtained; hydrochloride, m.p. 234°-236°.

reactant | 1-(3,4-dimethoxyphenyl)-2-chloroethane | COC=1C=C(C=CC1OC)CCCl | C10H13ClO2
reactant | 3,4,5-trimethoxybenzamidoacetonitrile | 2.5 g | COC=1C=C(C(=O)NCC#N)C=C(C1OC)OC | C12H14N2O4
reactant | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | tin tetrachloride | [Sn](Cl)(Cl)(Cl)Cl
catalyst | PtO2 | O=[Pt]=O
solvent | methanol | CO | CH4O
product | 1-(3,4,5-trimethoxybenzamidomethyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C(=O)NCC2NCCC3=CC(=C(C=C23)OC)OC)C=C(C1OC)OC | C22H28N2O6
